US08383652B2
1.0 g (2.9 mmol) of ethyl (Z)-2-ethoxy-3-[4-(4,4,5,5-tetramethyl[1.3]dioxaborolan-2-yl)phenyl]acrylate, 0.4 g (2.4 mmol) of 6-methylamino-2-bromopyridine and 1.1 g (7.2 mmol) of caesium fluoride are dissolved in 60 mL of diethylene glycol dimethyl ether. After bubbling nitrogen through the reaction mixture for 20 minutes, 0.1 g (0.15 mmol) of dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium is added. The reaction mixture is heated at 80° C. for 18 hours with vigorous stirring. After cooling, the reaction is worked up by addition of 60 mL of water and extraction with ethyl acetate. The organic phases are combined, washed with saturated aqueous sodium chloride solution and then dried over magnesium sulfate. After filtration, the solvents are evaporated off. The crude product obtained is purified by chromatography on a column of silica eluted with a 90/10 heptane/ethyl acetate mixture to give 0.6 g (76%) of ethyl (Z)-2-ethoxy-3-[4-(6-methylaminopyrid-2-yl)phenyl]acrylate.

reactant | ethyl (Z)-2-ethoxy-3-[4-(4,4,5,5-tetramethyl[1.3]dioxaborolan-2-yl)phenyl]acrylate | 2.9 mmol, 1.0 g | C(C)O\C(\C(=O)OCC)=C/C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C19H27BO5
reactant | 6-methylamino-2-bromopyridine | 2.4 mmol, 0.4 g | CNC1=CC=CC(=N1)Br | C6H7BrN2
reactant | caesium fluoride | 7.2 mmol, 1.1 g | [F-].[Cs+]
reactant | water | 60 mL | O | H2O
solvent | diethylene glycol dimethyl ether | 60 mL | COCCOCCOC | C6H14O3
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 0.15 mmol, 0.1 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl (Z)-2-ethoxy-3-[4-(6-methylaminopyrid-2-yl)phenyl]acrylate | 0.6 g, 76% | C(C)O\C(\C(=O)OCC)=C/C1=CC=C(C=C1)C1=NC(=CC=C1)NC | C19H22N2O3
